US07381253B2
Part A: Triethanolamine Trianthranilate Synthesis
Into a 1 liter round bottom flask-equipped with mechanical stirrer, dropping funnel, and thermometer was charged triethanolamine (149.2 grams, 1.0 mol; obtained from Sigma-Aldrich), isatoic anhydride (520.0 grams, 3.5 mol), 1,4-diazabicyclo(2.2.2)octane (DABCO) (45.0 grams, 0.4 mol), and dimethylformamide (1,500 milliliters). The mixture was stirred and heated to 120° C. for a period of about 2 hours. The mixture was then cooled to room temperature, and methanol (2 liters) was added. Deionized water (1 liter) was added, causing the solution to turn cloudy. This solution was stirred for 2 hours, and then filtered, washed with 5×250 milliliters of methanol, and oven dried at 60° C. to yield 506 grams of a beige solid.

reactant | triethanolamine | 1.0 mol, 149.2 grams | N(CCO)(CCO)CCO | C6H15NO3
reactant | isatoic anhydride | 3.5 mol, 520.0 grams | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1,4-diazabicyclo(2.2.2)octane | 0.4 mol, 45.0 grams | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylformamide | 1,500 milliliters | CN(C=O)C | C3H7NO
solvent | water | 1 liter | O | H2O
solvent | methanol | 2 liters | CO | CH4O
product | Triethanolamine Trianthranilate | 506 grams | C(C=1C(N)=CC=CC1)(=O)O.C(C=1C(N)=CC=CC1)(=O)O.C(C=1C(N)=CC=CC1)(=O)O.N(CCO)(CCO)CCO | InChI=1S/3C7H7NO2.C6H15NO3/c3*8-6-4-2-1-3-5(6)7(9)10;8-4-1-7(2-5-9)3-6-10/h3*1-4H,8H2,(H,9,10);8-10H,1-6H2
